US03951981
Preparation of 6-Chloro-4,9-dihydro-10H-thieno[3,4-b] [1,5]benzodiazepine-10-thione
A mixture of 0.88 g. of 6-chloro-4,9-dihydro-10H-thieno[3,4-b] [1,5] benzodiazepin-10-one and 1.0 g. of phosphorus pentasulfide in 10 ml. of dry pyridine is stirred and heated under reflux for 4 hours. The reaction mixture is concentrated to dryness and the residue is stirred with 20 ml. of 1N sodium carbonate solution (pH 7-7.2) for 18 hours. The precipitate is collected, washed with water and recrystallized from methanol to give an organic solid, m.p. 235°-237°C. (dec.).

reactant | 6-chloro-4,9-dihydro-10H-thieno[3,4-b] [1,5] benzodiazepin-10-one | ClC1=CC2=C(NC(C=3C(N2)=CSC3)=O)C=C1 | C11H7ClN2OS
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-Chloro-4,9-dihydro-10H-thieno[3,4-b] [1,5]benzodiazepine-10-thione | ClC1=CC2=C(NC(C=3C(N2)=CSC3)=S)C=C1 | C11H7ClN2S2
